US08080568B1
To a stirred mixture of 2-(bromomethyl)-3-nitrobenzonitrile (1.10 g, 4.56 mmol) (prepared according to the method described in Tetrahedron 40: 1863-1868 (1984)) and dimethylamine hydrochloride (0.74 g, 9.13 mmol) in CH2Cl2 (15 mL) was added triethylamine (1.85 g, 18.25 mmol) dropwise at 0° C. The resulting mixture was stirred at room temperature for 2 h and evaporated to dryness under reduced pressure. The residue was diluted with water (10 mL) and extracted with EtOAc (3×50 mL). The EtOAc solution was dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give 2-((dimethylamino)methyl)-3-nitrobenzonitrile (0.75 g, 80%) as a yellow oil. 1H NMR (400 MHz, CDCl3): δ 7.93 (br d, 1H, J=8.0 Hz), 7.85 (dd, 1H, J=8.0, 1.4 Hz), 7.55 (t, 1H, J=8.0 Hz), 3.94 (s, 2H), 2.24 (s, 6H).

reactant | 2-(bromomethyl)-3-nitrobenzonitrile | 4.56 mmol, 1.10 g | BrCC1=C(C#N)C=CC=C1[N+](=O)[O-] | C8H5BrN2O2
reactant | dimethylamine hydrochloride | 9.13 mmol, 0.74 g | Cl.CNC
reactant | triethylamine | 18.25 mmol, 1.85 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-((dimethylamino)methyl)-3-nitrobenzonitrile | 0.75 g, 80% | CN(C)CC1=C(C#N)C=CC=C1[N+](=O)[O-] | C10H11N3O2
